
* ============================================
* Test: read_run.spice
* Cell: 6T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tests/6T_tb.spice

* -- stimulus --
VVDD vdd 0 3.3                                ; supply
VVSS vss 0 0                                  ; source
VWL  wl  0 PULSE(0 3.3 5n 0.1n 0.1n 20n 50n)  ; read: ON - Pulsed
CBL  bl  0 20f                                ; BL load capacitance
CBLB blb 0 20f                                ; BLB load capacitance

* -- initial conditions --
.ic v(q)=3.3 v(qb)=0        ; initial state: Q=1, QB=0
.ic v(bl)=3.3 v(blb)=3.3    ; precharged lines: BL=HI, BLB=HI

* -- sim --
.control
  save all
  
  tran 0.01n 50n uic

  * plot v(q) v(qb)

  * --- validate data ---
  echo
  meas tran q_init  FIND v(q)  AT=5n
  meas tran qb_init FIND v(qb) AT=5n
  echo
  meas tran q_final  FIND v(q)  AT=50n
  meas tran qb_final FIND v(qb) AT=50n
  echo
  meas tran bl_init  FIND v(bl)  AT=5n
  meas tran blb_init FIND v(blb) AT=5n
  echo
  meas tran bl_final  FIND v(bl)  AT=50n
  meas tran blb_final FIND v(blb) AT=50n
  echo
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/6t/results/read_run.raw all

.endc

.end
